US04016166
To a solution of 2.8 g of 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione and 30 ml of dimethylformamide was added 0.5 g of approximately 55 % sodium hydride, and the solution was stirred for 30 minutes. To this was further added 4.7 g of ethyl iodide and stirring was further continued for 1.5 hours at room temperature. After the reaction was complete, the solvent was distilled off from the mixture under reduced pressure. To the residue obtained was added water to precipitate a crude product, which was then recrystallized from methanol to give 2.7 g of 1-(m-nitrophenyl)-3-ethylquinazoline-2,4 (1H, 3H)-dione as light brown prisms, melting at 193°-194° C.

reactant | 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=CC=CC=C12)=O)=O | C14H9N3O4
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | ethyl iodide | 4.7 g | C(C)I | C2H5I
solvent | water | O | H2O
product | 1-(m-nitrophenyl)-3-ethylquinazoline-2,4 (1H, 3H)-dione | 2.7 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=CC=CC=C12)=O)CC)=O | C16H13N3O4
